US04596870
1-(4-Tolyloxy)methyl-5-chloropyrimidin-2-one
The title compound was prepared by adding a solution of 4-(chloromethoxy)toluene (see J.Appl. Chem. 3, 266(1953)) (10 mmol) in dichloromethane (10 ml) to a solution of 5-chloropyrimidin-2-one hydrochloride (10 mmol) and triethylamine (20 mmol) in dichloromethane (50 ml). The mixture was stirred at room temperature for 2 days. The product, 1.90 g (76%), consisted of the N- and O-isomers in the ratio 3:1. The N-isomer was isolated by its lower solubility in ether; m.p. 186° C. (acetone). (Found: C57.59; H4.65 Calc. for C12H11ClN2O2 : C57.49; H4.43) 1H NMR (CDCl3): δ 2.25 (Me), 5.74 (CH2), 6.8-7.3 (Ph), 7.80 and 8.50 (H-4 and H-6, respectively, J 3 Hz). IR (KBr): 1680 cm-1 (CO). MS [70 eV, m/z% rel. int.)[: 250 (7,M), 145 (31), 143 (100), 116 (28).

reactant | 4-(chloromethoxy)toluene | 10 mmol | ClCOC1=CC=C(C=C1)C | C8H9ClO
reactant | 5-chloropyrimidin-2-one hydrochloride | 10 mmol | Cl.ClC=1C=NC(NC1)=O
reactant | triethylamine | 20 mmol | C(C)N(CC)CC | C6H15N
reactant | KBr | [K+].[Br-]
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | ether | CCOCC | C4H10O
solvent | acetone | CC(=O)C | C3H6O
product | 1-(4-Tolyloxy)methyl-5-chloropyrimidin-2-one | C1(=CC=C(C=C1)OCN1C(N=CC(=C1)Cl)=O)C | C12H11ClN2O2
